US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S,9aR)-1-[(diethylamino)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 50 mg (0.116 mmol) 17-hydroxywortmannin in 1 mL CH2Cl2 is added 22.5 mL (0.217 mmol) diethylamine. The reaction mixture is stirred at room temperature for 2 hours 30 minutes and then concentrated in vacuo to give an orange paste. The residue is dissolved in ethyl actate (EtOAc) and precipitated with hexane. The precipitate is washed two times with hexane to give 45 mg (77%) product as an orange solid. HRMS (ESI) m/z calcd for C27 H37NO8 503.25206, found: 504.25747 (M+H)+1.

reactant | 17-hydroxywortmannin | 0.116 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | diethylamine | 0.217 mmol, 22.5 mL | C(C)NCC | C4H11N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl actate | C(C)(=O)OCC | C4H8O2
product | (1E,4S,4aR,5R,6aS,7S,9aR)-1-[(diethylamino)methylene]-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 45 mg, 77% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CC[C@H]2C=2C(C(=C3\C(\C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/N(CC)CC)O)=O)O)C | C27H37NO8
